US05977178
(2R)-3-Benzyloxy-2-tert-butoxycarbonylaminopropionic acid (7.0 g; 23.7 mmol) was dissolved in dry tetrahydrofuran and iodomethane (11.9 mL; 189 mmol) was added. The reaction mixture was cooled to 0° C. and sodium hydride (60% in mineral oil) (2.73 g; 71 mmol) was added. The reaction mixture was left 3 days without stirring at 0° C. Citric acid (5%) was added until pH 2.5. Tetrahydrofuran was removed in vacuo and the residue was extracted with methylene chloride (3×100 mL). The organic phase was dried (magnesium sulfate) and evaporated in vacuo. The residue was dissolved in diethyl ether (20 mL) and dicyclohexylamine (10 mL) and heptane (100 mL) were added. The reaction mixture was left 3 days without stirring at 0° C. The reaction mixture was filtered to afford 5.78 g of (2R)-3-benzyloxy-2-(tert-butoxycarbonylmethylamino)propionic acid.

reactant | (2R)-3-Benzyloxy-2-tert-butoxycarbonylaminopropionic acid | 23.7 mmol, 7.0 g | C(C1=CC=CC=C1)OC[C@H](C(=O)O)NC(=O)OC(C)(C)C | C15H21NO5
reactant | iodomethane | 189 mmol, 11.9 mL | IC | CH3I
reactant | sodium hydride | 71 mmol, 2.73 g | [H-].[Na+]
reactant | Citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | (2R)-3-benzyloxy-2-(tert-butoxycarbonylmethylamino)propionic acid | 5.78 g | C(C1=CC=CC=C1)OC[C@H](C(=O)O)NCC(=O)OC(C)(C)C | C16H23NO5
